datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([C:5]([C:6]([O:7][O:8])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:12])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:9])([H:10])[H:11],59.7475
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([S:9][H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7](=[C:8]([S:9])[H:12])([H:10])[H:11],22.1752
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[H:11]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[H:11])([H:5])[H:6],10.711
[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],39.748
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19])([H:8])[H:9],37.5305
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])[H:24])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17]([C:18]([C:19]([H:25])([H:26])[H:27])([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])[H:24])([H:22])[H:23],33.0536
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](#[C:20][C:21]([C:22]([H:25])([H:26])[H:27])[H:24])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20]#[C:19][H:23])([C:22]([H:25])([H:26])[H:27])[H:24])[H:9],33.8486
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][O:13]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])[H:5].[H:4][O:12][O:13],260.53768
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5]>>[C:0]([C:1](=[N:2][H:8])[H:6])([H:3])([H:4])[H:5].[H:7],200.066328
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])[C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])[C:4]([H:15])[H:16])([H:8])[H:9].[C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18],313.624272
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],97.9474
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])[H:3],36.1916
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[N:12]([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][N:12]([H:13])[H:14],36.4008
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:18]([H:19])([H:20])[H:21])[H:11])[H:10],22.0915
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:12]([C:13]([H:16])([H:17])[H:18])([H:14])[H:15])[H:6],33.0954
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:16])([H:17])[H:18])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])[H:14])([C:10]([H:16])([H:17])[H:18])[H:15])[H:3],32.3005
